* NGSPICE file created from self_bias_FCOTA_flat.ext - technology: sky130A

.subckt self_bias_FCOTA_flat vout vdd vss vin vip
X0 vss Beta_mult_0.XM31.S Beta_mult_0.XM31.S vss sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.4
X1 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X2 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X3 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X4 OTA_0.vc OTA_0.vdo vdd vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.58 as=1.74 ps=12.58 w=6 l=0.4
X5 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X6 vdd OTA_0.va OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X7 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X8 OTA_0.vb OTA_0.vb biasing_0.XM12.D vdd sky130_fd_pr__pfet_01v8 ad=2.32 pd=16.58 as=1.16 ps=8.29 w=8 l=0.4
X9 OTA_0.XM21.D0 OTA_0.va vdd vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X10 OTA_0.XM23.D0 OTA_0.XM34.S vss vss sky130_fd_pr__nfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X11 OTA_0.XM15.D OTA_0.XM17.D0 vss vss sky130_fd_pr__nfet_01v8 ad=2.61 pd=18.58 as=2.61 ps=18.58 w=9 l=0.4
X12 biasing_0.XM2.D OTA_0.vc OTA_0.vc vss sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.4
X13 vss biasing_0.VD biasing_0.XM4.D vss sky130_fd_pr__nfet_01v8 ad=0.174 pd=1.78 as=0.174 ps=1.78 w=0.6 l=0.4
X14 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X15 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X16 OTA_0.XM16.D OTA_0.vc vout vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X17 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X18 vdd OTA_0.va OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X19 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X20 vdd OTA_0.va OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X21 vss biasing_0.VD biasing_0.XM6.D vss sky130_fd_pr__nfet_01v8 ad=0.174 pd=1.78 as=0.174 ps=1.78 w=0.6 l=0.4
X22 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X23 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X24 OTA_0.XM17.D0 OTA_0.vc OTA_0.XM15.D vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X25 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X26 OTA_0.XM22.D0 vin OTA_0.XM23.D0 vss sky130_fd_pr__nfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X27 OTA_0.XM21.D0 OTA_0.va vdd vdd sky130_fd_pr__pfet_01v8 ad=1.16 pd=8.58 as=0.58 ps=4.29 w=4 l=0.4
X28 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X29 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X30 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X31 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X32 OTA_0.XM34.S OTA_0.vdo vdd vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.58 as=1.74 ps=12.58 w=6 l=0.4
X33 vdd OTA_0.vb biasing_0.XM12.D vdd sky130_fd_pr__pfet_01v8 ad=0.348 pd=2.98 as=0.348 ps=2.98 w=1.2 l=0.4
X34 vss OTA_0.vc biasing_0.XM2.D vss sky130_fd_pr__nfet_01v8 ad=0.174 pd=1.78 as=0.174 ps=1.78 w=0.6 l=0.4
X35 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X36 vdd OTA_0.va OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=1.16 ps=8.58 w=4 l=0.4
X37 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X38 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X39 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X40 vdd OTA_0.va biasing_0.XM11.D vdd sky130_fd_pr__pfet_01v8 ad=0.348 pd=2.98 as=0.348 ps=2.98 w=1.2 l=0.4
X41 OTA_0.XM22.D0 vin OTA_0.XM23.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X42 OTA_0.XM21.D0 vip OTA_0.XM23.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X43 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X44 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X45 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X46 OTA_0.XM23.D0 vin OTA_0.XM22.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X47 OTA_0.XM23.D0 vin OTA_0.XM22.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X48 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X49 OTA_0.XM22.D0 vin OTA_0.XM23.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X50 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X51 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X52 biasing_0.XM6.D OTA_0.vc OTA_0.va vss sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.4
X53 vdd OTA_0.vdo OTA_0.vdo vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.58 as=1.74 ps=12.58 w=6 l=0.4
X54 vss Beta_mult_0.XR1.R1 vss sky130_fd_pr__res_high_po_0p69 l=15
X55 OTA_0.XM22.D0 vin OTA_0.XM23.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X56 biasing_0.VD OTA_0.vdo vdd vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.58 as=1.74 ps=12.58 w=6 l=0.4
X57 Beta_mult_0.XM31.S Beta_mult_0.XM31.G OTA_0.vdo vss sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.2
X58 vss Beta_mult_0.XM31.S Beta_mult_0.XM31.G vss sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.4
X59 OTA_0.XM23.D0 vin OTA_0.XM22.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X60 biasing_0.XM12.D OTA_0.vb OTA_0.vb vdd sky130_fd_pr__pfet_01v8 ad=1.16 pd=8.29 as=2.32 ps=16.58 w=8 l=0.4
X61 OTA_0.va OTA_0.vb biasing_0.XM11.D vdd sky130_fd_pr__pfet_01v8 ad=2.32 pd=16.58 as=1.16 ps=8.29 w=8 l=0.4
X62 vss OTA_0.XM34.S OTA_0.XM23.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X63 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X64 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X65 OTA_0.XM23.D0 vin OTA_0.XM22.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X66 vdd OTA_0.vdo Beta_mult_0.XM31.S vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.58 as=1.74 ps=12.58 w=6 l=0.4
X67 biasing_0.XM4.D OTA_0.vc biasing_0.VD vss sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.4
X68 OTA_0.XM15.D OTA_0.vc OTA_0.XM17.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X69 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X70 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X71 OTA_0.XM16.D OTA_0.XM17.D0 vss vss sky130_fd_pr__nfet_01v8 ad=2.61 pd=18.58 as=2.61 ps=18.58 w=9 l=0.4
X72 vdd OTA_0.va OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=1.16 ps=8.58 w=4 l=0.4
X73 OTA_0.XM21.D0 vip OTA_0.XM23.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X74 biasing_0.XM11.D OTA_0.vb OTA_0.va vdd sky130_fd_pr__pfet_01v8 ad=1.16 pd=8.29 as=2.32 ps=16.58 w=8 l=0.4
X75 OTA_0.XM17.D0 OTA_0.vc OTA_0.XM15.D vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X76 OTA_0.XM17.D0 OTA_0.vc OTA_0.XM15.D vss sky130_fd_pr__nfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X77 OTA_0.XM23.D0 vip OTA_0.XM21.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X78 OTA_0.XM15.D OTA_0.vc OTA_0.XM17.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X79 OTA_0.XM23.D0 vip OTA_0.XM21.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X80 OTA_0.XM22.D0 OTA_0.va vdd vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X81 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X82 OTA_0.XM16.D OTA_0.vc vout vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X83 OTA_0.XM23.D0 vip OTA_0.XM21.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X84 OTA_0.XM15.D OTA_0.vc OTA_0.XM17.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X85 Beta_mult_0.XR1.R1 Beta_mult_0.XM31.S OTA_0.vdo vss sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.4
X86 OTA_0.XM21.D0 vip OTA_0.XM23.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X87 OTA_0.XM17.D0 OTA_0.vc OTA_0.XM15.D vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X88 OTA_0.XM21.D0 vip OTA_0.XM23.D0 vss sky130_fd_pr__nfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X89 OTA_0.XM17.D0 OTA_0.vc OTA_0.XM15.D vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X90 OTA_0.XM22.D0 OTA_0.vb vout vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X91 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X92 vout OTA_0.vc OTA_0.XM16.D vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X93 vout OTA_0.vc OTA_0.XM16.D vss sky130_fd_pr__nfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X94 OTA_0.XM16.D OTA_0.vc vout vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X95 OTA_0.XM22.D0 OTA_0.va vdd vdd sky130_fd_pr__pfet_01v8 ad=1.16 pd=8.58 as=0.58 ps=4.29 w=4 l=0.4
X96 OTA_0.XM23.D0 vip OTA_0.XM21.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X97 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X98 OTA_0.XM15.D OTA_0.vc OTA_0.XM17.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X99 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=3.48 pd=24.58 as=1.74 ps=12.29 w=12 l=0.4
X100 vdd OTA_0.va OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X101 OTA_0.XM16.D OTA_0.vc vout vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X102 vss OTA_0.XM34.S OTA_0.XM34.S vss sky130_fd_pr__nfet_01v8 ad=0.464 pd=3.78 as=0.464 ps=3.78 w=1.6 l=0.4
X103 vout OTA_0.vc OTA_0.XM16.D vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X104 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X105 vout OTA_0.vc OTA_0.XM16.D vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X106 OTA_0.XM21.D0 OTA_0.vb OTA_0.XM17.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X107 OTA_0.XM21.D0 OTA_0.va vdd vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X108 vout OTA_0.vc OTA_0.XM16.D vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X109 vss biasing_0.VD biasing_0.XM8.D vss sky130_fd_pr__nfet_01v8 ad=0.174 pd=1.78 as=0.174 ps=1.78 w=0.6 l=0.4
X110 biasing_0.XM8.D OTA_0.vc OTA_0.vb vss sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.4
X111 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X112 OTA_0.XM22.D0 OTA_0.va vdd vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.29 as=0.58 ps=4.29 w=4 l=0.4
X113 vdd Beta_mult_0.XM31.G Beta_mult_0.XM31.G vdd sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=20
X114 OTA_0.XM15.D OTA_0.vc OTA_0.XM17.D0 vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=3.48 ps=24.58 w=12 l=0.4
X115 vout OTA_0.vb OTA_0.XM22.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X116 OTA_0.XM16.D OTA_0.vc vout vss sky130_fd_pr__nfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
X117 OTA_0.XM17.D0 OTA_0.vb OTA_0.XM21.D0 vdd sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.29 as=1.74 ps=12.29 w=12 l=0.4
C0 biasing_0.XM8.D OTA_0.vc 1.27617f
C1 OTA_0.va OTA_0.XM17.D0 0
C2 vin OTA_0.va 0.18943f
C3 biasing_0.VD OTA_0.vb 0.00201f
C4 OTA_0.XM17.D0 vout 0.00662f
C5 OTA_0.XM21.D0 OTA_0.vb 9.99327f
C6 OTA_0.XM22.D0 OTA_0.vb 10.4586f
C7 biasing_0.XM11.D OTA_0.vb 0.8486f
C8 vip vdd 4.92129f
C9 OTA_0.vc OTA_0.vb 1.73963f
C10 OTA_0.vdo biasing_0.VD 1.11843f
C11 OTA_0.XM34.S vip 0
C12 OTA_0.XM22.D0 OTA_0.vdo 0
C13 OTA_0.vdo biasing_0.XM11.D 0.17626f
C14 OTA_0.vdo Beta_mult_0.XR1.R1 0.57911f
C15 OTA_0.vdo OTA_0.vc 3.2073f
C16 Beta_mult_0.XM31.G OTA_0.vdo 0.5944f
C17 OTA_0.XM23.D0 OTA_0.XM17.D0 0.00485f
C18 OTA_0.XM15.D OTA_0.XM17.D0 15.6795f
C19 OTA_0.vb OTA_0.va 3.79034f
C20 biasing_0.VD vdd 2.12249f
C21 OTA_0.XM21.D0 vdd 10.165f
C22 OTA_0.XM22.D0 vdd 13.0301f
C23 biasing_0.XM11.D vdd 0.88118f
C24 OTA_0.vdo Beta_mult_0.XM31.S 3.16623f
C25 OTA_0.XM23.D0 vin 3.81022f
C26 OTA_0.XM34.S OTA_0.XM21.D0 0
C27 OTA_0.vb vout 10.5327f
C28 OTA_0.XM22.D0 OTA_0.XM34.S 0.00837f
C29 OTA_0.vc vdd 5.84443f
C30 OTA_0.vdo OTA_0.va 1.28199f
C31 Beta_mult_0.XM31.G vdd 10.1857f
C32 OTA_0.vc OTA_0.XM16.D 6.53425f
C33 OTA_0.XM34.S OTA_0.vc 0.56262f
C34 Beta_mult_0.XM31.S vdd 1.72215f
C35 biasing_0.VD biasing_0.XM2.D 0.18886f
C36 OTA_0.va vdd 21.0839f
C37 OTA_0.XM34.S OTA_0.va 0
C38 OTA_0.XM15.D OTA_0.vb 0.00101f
C39 OTA_0.vc biasing_0.XM2.D 2.65217f
C40 biasing_0.XM6.D OTA_0.vb 0.00462f
C41 vdd vout 5.61589f
C42 OTA_0.vb biasing_0.XM12.D 3.61269f
C43 OTA_0.XM16.D vout 14.1237f
C44 OTA_0.vb OTA_0.XM17.D0 10.4685f
C45 OTA_0.XM21.D0 vip 6.75696f
C46 OTA_0.vdo biasing_0.XM6.D 0.00257f
C47 OTA_0.XM22.D0 vip 0.48952f
C48 OTA_0.vdo biasing_0.XM12.D 0.03003f
C49 vin OTA_0.vb 0.01862f
C50 vip OTA_0.vc 0.55327f
C51 biasing_0.VD biasing_0.XM4.D 0.51631f
C52 biasing_0.XM8.D OTA_0.vb 0.37199f
C53 biasing_0.XM6.D vdd 0.00148f
C54 vdd biasing_0.XM12.D 0.95246f
C55 OTA_0.XM34.S OTA_0.XM23.D0 1.85326f
C56 OTA_0.vdo vin 0.03064f
C57 biasing_0.XM4.D OTA_0.vc 1.22787f
C58 vip OTA_0.va 0.18276f
C59 OTA_0.XM22.D0 OTA_0.XM21.D0 0.76077f
C60 biasing_0.XM8.D OTA_0.vdo 0.0033f
C61 vdd OTA_0.XM17.D0 5.00954f
C62 biasing_0.VD OTA_0.vc 3.22928f
C63 OTA_0.XM16.D OTA_0.XM17.D0 1.30327f
C64 OTA_0.XM21.D0 OTA_0.vc 0.53225f
C65 OTA_0.XM22.D0 OTA_0.vc 0.51895f
C66 vin vdd 4.1603f
C67 OTA_0.XM34.S vin 0.05302f
C68 biasing_0.XM8.D vdd 0.00308f
C69 biasing_0.VD OTA_0.va 0.0273f
C70 OTA_0.XM21.D0 OTA_0.va 1.86565f
C71 Beta_mult_0.XM31.S Beta_mult_0.XR1.R1 1.33255f
C72 OTA_0.vdo OTA_0.vb 1.60589f
C73 OTA_0.XM22.D0 OTA_0.va 5.40226f
C74 biasing_0.XM11.D OTA_0.va 2.57281f
C75 Beta_mult_0.XM31.G Beta_mult_0.XM31.S 0.52754f
C76 OTA_0.vc OTA_0.va 1.56015f
C77 OTA_0.XM21.D0 vout 0
C78 OTA_0.XM23.D0 vip 3.80861f
C79 OTA_0.XM22.D0 vout 28.2977f
C80 OTA_0.vb vdd 27.5092f
C81 OTA_0.vb OTA_0.XM16.D 0
C82 OTA_0.vc vout 8.04607f
C83 vip OTA_0.XM17.D0 0.06257f
C84 OTA_0.vdo vdd 18.57f
C85 vip vin 0.00203f
C86 biasing_0.XM6.D biasing_0.VD 0.16991f
C87 OTA_0.vdo OTA_0.XM34.S 0.84589f
C88 OTA_0.XM21.D0 OTA_0.XM23.D0 10.8708f
C89 OTA_0.XM22.D0 OTA_0.XM23.D0 10.8793f
C90 biasing_0.XM11.D biasing_0.XM12.D 0.03728f
C91 OTA_0.XM23.D0 OTA_0.vc 0.67457f
C92 OTA_0.XM15.D OTA_0.vc 5.29487f
C93 biasing_0.XM6.D OTA_0.vc 1.2621f
C94 OTA_0.XM21.D0 OTA_0.XM17.D0 28.4563f
C95 OTA_0.XM34.S vdd 1.86705f
C96 OTA_0.XM22.D0 OTA_0.XM17.D0 0.00655f
C97 OTA_0.XM21.D0 vin 0
C98 OTA_0.vc OTA_0.XM17.D0 7.06137f
C99 OTA_0.XM22.D0 vin 5.09691f
C100 OTA_0.XM23.D0 OTA_0.va 0
C101 biasing_0.XM8.D biasing_0.VD 0.16935f
C102 biasing_0.XM6.D OTA_0.va 0.37254f
C103 vip OTA_0.vb 0.05093f
C104 OTA_0.va biasing_0.XM12.D 0.01832f
C105 vin OTA_0.vc 0.54661f
C106 vip vss 6.23759f
C107 vin vss 6.31868f
C108 vout vss 3.92814f
C109 vdd vss 0.17238p
C110 Beta_mult_0.XR1.R1 vss 3.72278f
C111 OTA_0.XM16.D vss 4.76035f
C112 OTA_0.XM15.D vss 4.63851f
C113 OTA_0.XM23.D0 vss 8.44145f
C114 Beta_mult_0.XM31.S vss 5.84487f
C115 Beta_mult_0.XM31.G vss 4.40976f
C116 OTA_0.XM17.D0 vss 10.5917f
C117 OTA_0.XM21.D0 vss 1.87296f
C118 OTA_0.XM22.D0 vss 3.90595f
C119 OTA_0.XM34.S vss 10.4807f
C120 biasing_0.XM8.D vss 2.87662f
C121 biasing_0.XM6.D vss 2.71368f
C122 biasing_0.XM4.D vss 2.73785f
C123 biasing_0.XM2.D vss 2.79878f
C124 biasing_0.VD vss 12.2584f
C125 OTA_0.vc vss 36.2968f
C126 OTA_0.vdo vss 12.4934f
C127 OTA_0.vb vss 16.523f
C128 OTA_0.va vss 10.3144f
.ends

